US05439917
Preparation of 2,3-dimethyl-7(2-(2-acetaminophenyl)-ethyl)pyrrolo[2,3-b]pyridine hydrobromide.
A solution of 73 mg (0,5 mmol) 2,3 dimethylpyrrolo[2,3-b]pyridine and 122 mg (0,5 mmol) of (2-bromoethyl)acetanilide in 2 ml acetonitrile was refluxed for 10 h. The solvent was evaporated and the crude product was treated with 5 ml petroleum ether:ether 1:1 and the insoluble fraction was treated with ether. The etheral layer was separated from the oily residue, which crystallized from acetronitrile and gave 15 mg (7,7%) of the title compound.

reactant | 2,3 dimethylpyrrolo[2,3-b]pyridine | 0,5 mmol, 73 mg | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | (2-bromoethyl)acetanilide | 0,5 mmol, 122 mg | BrCCCC(=O)NC1=CC=CC=C1 | C10H12BrNO
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2,3-dimethyl-7(2-(2-acetaminophenyl)-ethyl)pyrrolo[2,3-b]pyridine hydrobromide | 15 mg, 7,7% | Br.CC1=C(C=2C(N(C=CC2)CCC2=C(C=CC=C2)NC(=O)C)=N1)C | InChI=1S/C19H21N3O.BrH/c1-13-14(2)20-19-17(13)8-6-11-22(19)12-10-16-7-4-5-9-18(16)21-15(3)23;/h4-9,11H,10,12H2,1-3H3,(H,21,23);1H
